US04554007
Synthesis of the I'-A isomer of 3-(4-chlorophenyl)-1-(1-methylcyclopropyl)-2-(1,2,4-triazole-1-yl)-2-propene-1-ol (Compound No. 30) by Method A
The NMR spectrum of the starting material, II-A isomer of 3-(4-chlorophenyl)-1-(1-methylcyclopropyl)-2-(1,2,4-triazole-1-yl)-2-propene-1-one, is as follows: 8.28 (1H, s, triazole proton), 8.07 (1H, s, triazole proton), 7.32 (4H, s, phenyl proton), 7.19 (1H, s, olefin proton), 1.45-1.15 (2H, m, methylene proton of cyclopropyl group), 1.25 (3H, s, methyl proton), 0.99-0.75 (2H, m, methylene proton of cyclopropyl group).

reactant | 3-(4-chlorophenyl)-1-(1-methylcyclopropyl)-2-(1,2,4-triazole-1-yl)-2-propene-1-one | ClC1=CC=C(C=C1)C=C(C(=O)C1(CC1)C)N1N=CN=C1 | C15H14ClN3O
reactant | triazole | N1N=NC=C1 | C2H3N3
product | 3-(4-chlorophenyl)-1-(1-methylcyclopropyl)-2-(1,2,4-triazole-1-yl)-2-propene-1-ol | ClC1=CC=C(C=C1)C=C(C(O)C1(CC1)C)N1N=CN=C1 | C15H16ClN3O
